US20010053779A1
A mixture comprising N-[2-(2-methoxyphenoxy)ethyl]-3-methoxy-4-nitrobenzamide (4.0 g, 11.6 mmol), aqueous methylamine (40%, 10 mL) and DMSO (2 mL) in a sealed tube was heated at 110° C. for 4 hours, cooled and then poured into water (25 mL). The dilution was treated with 3M aqueous hydrochloric acid to give an orange solid. The solid was isolated by filtration to provide N-[2-(2-methoxyphenoxy)ethyl]-3-methylamino-4-nitrobenzamide (3.56 g, 89% yield); MS (PB-PCI) C17H19N3O5 m/e calc 345.35; found 346 (MH+).

reactant | N-[2-(2-methoxyphenoxy)ethyl]-3-methoxy-4-nitrobenzamide | 11.6 mmol, 4.0 g | COC1=C(OCCNC(C2=CC(=C(C=C2)[N+](=O)[O-])OC)=O)C=CC=C1 | C17H18N2O6
reactant | methylamine | 10 mL | CN | CH5N
reactant | DMSO | 2 mL | CS(=O)C | C2H6OS
reactant | hydrochloric acid | 3M | Cl | ClH
solvent | water | 25 mL | O | H2O
product | N-[2-(2-methoxyphenoxy)ethyl]-3-methylamino-4-nitrobenzamide | 3.56 g, 89% yield | COC1=C(OCCNC(C2=CC(=C(C=C2)[N+](=O)[O-])NC)=O)C=CC=C1 | C17H19N3O5
